US08877754B2
2-(4-Iodo-phenyl)-propionic acid
0.610 g (14.6 mmol) lithiumhydroxide monohydrate in 15 mL water are added to 2.12 g (7.31 mmol) 2-(4-iodo-phenyl)-propionic acid methyl ester (Bioorg. Med. Chem. Lett. 2010, 20, 896) in 20 mL THF and 12 mL MeOH at 0° C. Cooling is removed and the mixture is stirred at rt for 2 h. After that time, the mixture is acidified with 1 N HCl to pH˜1 and extracted with DCM. The organic layer is washed with brine, dried over sodium sulphate and the solvent is evaporated. The product is used without further purification in Example IV.1

reactant | lithiumhydroxide monohydrate | 14.6 mmol, 0.610 g | O.[OH-].[Li+]
reactant | 2-(4-iodo-phenyl)-propionic acid methyl ester | 7.31 mmol, 2.12 g | COC(C(C)C1=CC=C(C=C1)I)=O | C10H11IO2
solvent | water | 15 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 12 mL | CO | CH4O
product | 2-(4-Iodo-phenyl)-propionic acid | IC1=CC=C(C=C1)C(C(=O)O)C | C9H9IO2
